US07015218B1
2-Chloro-5-nitrobenzonitrile (25.5 g) and silver nitrate (28.5 g) were added to diethanolamine (102 g) and the mixture was stirred at 100° C. for 1 h. The reaction mixture was cooled to room temperature and the solid was filtered off. To the filtrate was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from hydrous methanol to give 2-bis(2-hydroxyethyl)amino-5-nitrobenzonitrile (21.2 g).

reactant | 2-Chloro-5-nitrobenzonitrile | 25.5 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | diethanolamine | 102 g | N(CCO)CCO | C4H11NO2
catalyst | silver nitrate | 28.5 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-bis(2-hydroxyethyl)amino-5-nitrobenzonitrile | 21.2 g | OCCN(C1=C(C#N)C=C(C=C1)[N+](=O)[O-])CCO | C11H13N3O4
